US06608077B2
d) 6-chloro-2-hydroxy-3-nitrobenzenesulfonamide
A mixture of 2,6-dichloro-3-nitrobenzenesulfonamide (2.61 g, 9.64 mmol), 60% sodium hydride (1.15 g, 28.9 mmol) and water (174 μL, 9.64 mmol) was heated to 45° C. while kept at argon atmosphere for 3 days. The reaction was monitored by 1H NMR. 0.1 equivalent water was added to the mixture when the reaction was not completed. The solvent was evaporated when the reaction almost completed indicated by 1H NMR. The residue was diluted with ethyl acetate and washed with 1N aq. HCl. The solvent was concentrated to give the crude material. Column chromatography on silica gel, eluting with ethyl acetate/hexane/acetic acid (50/48/2, v/v/v), gave the desired product (1.87 g, 77%). EI-MS (m/z)250.84, 252.89 (M−).

reactant | 2,6-dichloro-3-nitrobenzenesulfonamide | 9.64 mmol, 2.61 g | ClC1=C(C(=CC=C1[N+](=O)[O-])Cl)S(=O)(=O)N | C6H4Cl2N2O4S
reactant | sodium hydride | 28.9 mmol, 1.15 g | [H-].[Na+]
reactant | water | 9.64 mmol, 174 μL | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-chloro-2-hydroxy-3-nitrobenzenesulfonamide | 1.87 g, 77% | ClC1=CC=C(C(=C1S(=O)(=O)N)O)[N+](=O)[O-] | C6H5ClN2O5S
